US05527832
Three grams of flurbiprofen and 30 g of poloxamer 237 were heated at 110° C. for 10 minutes to obtain a liquified mixture and cooled to 60° C. Into this mixture, 5 g of polyethylene glycol 300, 10 g of ethanol and 52 g of pH 4 buffer solution were added at 60° C. to obtain an ibuprofen gel.

reactant | flurbiprofen | Three grams | CC(C=1C=CC(=C(C1)F)C=2C=CC=CC2)C(=O)O | C15H13FO2
reactant | ethanol | 10 g | C(C)O | C2H6O
product | ibuprofen | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
